US07273865B2
Tetrahydro-pyran-4-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide
From tetrahydro-pyran-4-yl-carboxylic acid, HATU and N-methylmorpholine in THF, then treatment with 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine. ES-MS m/e (%): 379 (M+H+, 100).

reactant | tetrahydro-pyran-4-yl-carboxylic acid | O1CCC(CC1)C(=O)O | C6H10O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
solvent | THF | C1CCOC1 | C4H8O
product | Tetrahydro-pyran-4-carboxylic acid (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-amide | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(=O)C2CCOCC2 | C17H22N4O4S
